US06103762
(b) 5-methoxy-4,4-dimethylthiochroman
62.00 g (298.0 mmol) of the compound obtained in Example 10(a), 85.00 g (446.0 mmol) of paratoluenesulphonic acid and 500 ml of toluene are introduced into a round-bottomed flask. The mixture is heated at reflux for two hours, cooled, water and ethyl acetate are then added and extraction is carried out with ethyl acetate. The organic phase is separated by settling, washed with water and then using a saturated sodium chloride solution and dried over magnesium sulphate, and the solvents are evaporated. 65.19 g of a yellow oil are obtained, which oil is distilled under reduced pressure (5×10-2 bar/120-122° C.) to produce 17.40 g (28%) of the expected compound in the form of a colourless oil.

reactant | paratoluenesulphonic acid | 446.0 mmol, 85.00 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-4,4-dimethylthiochroman | 65.19 g | COC1=C2C(CCSC2=CC=C1)(C)C | C12H16OS
